US07495012B2
Synthesis of 1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenylsulfonyl)-homopiperidine
The 4-acetylbenzenesulfonamide prepared above (247 mg, 0.879 mmol, 1.0 equiv) was dissolved in 10 mL THF followed by the addition on 3.52 mL of a 0.5M solution of CF3TMS in THF. After 5 min, 229 mg of tetrabutylammonium fluoride hydrate (0.879 mmol, 1.0 equiv) was added to the stirring solution. After stirring 21 h the reaction mixture was diluted with sat. NaHCO3, extracted (2×EtOAc), dried (MgSO4) and concentrated under reduced pressure. Purification by flash chromatography (SiO2, 2% MeOH/CH2Cl2) gave the product as a white solid. 1H NMR (DMSO, 400 MHz) δ 7.80 (s, 4H), 6.84 (s, 1H), 3.21 (t, J=5.8 Hz, 4H), 1.71 (s, 3H), 1.63 (m, 4H), 1.50 (m, 4H).

reactant | 4-acetylbenzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | CF3TMS | C(F)(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride hydrate | 0.879 mmol, 229 mg, 1.0 equiv | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenylsulfonyl)-homopiperidine | FC(C(C)(O)C1=CC=C(C=C1)S(=O)(=O)N1CCCCCC1)(F)F | C15H20F3NO3S
